US06900216B2
A solution of bromine (0.4 ml) in dichloromethane (5 ml) was added dropwise under nitrogen to a stirred suspension of 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole (1.9 g) in dichloromethane (20 ml), then the mixture was stirred at ambient temperature for 30 minutes. The resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 3-(benzo[b]thiophen-5-yl)-2-bromo-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (1.9 g) as a yellow solid which was used without further purification. Concentration of the filtrate yielded a second crop of 3-(benzo[b]thiophen-5-yl)-2-bromo-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.4 g) as a yellow solid.

reactant | bromine | 0.4 ml | BrBr | Br2
reactant | 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole | 1.9 g | S1C2=C(C=C1)C=C(C=C2)C=2N1C(SC2)=NCC1 | C13H10N2S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(benzo[b]thiophen-5-yl)-2-bromo-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 1.9 g | Br.S1C2=C(C=C1)C=C(C=C2)C=2N1C(SC2Br)=NCC1 | InChI=1S/C13H9BrN2S2.BrH/c14-12-11(16-5-4-15-13(16)18-12)9-1-2-10-8(7-9)3-6-17-10;/h1-3,6-7H,4-5H2;1H
